US05330991
In 10 ml of methanol, 0.20 g of 7-tert-butyl-3-(4-tert-butylphenyl)-2-methyl-l,2,3,4-tetrahydroisoquinoline and 0.10 g of saccharin were dissolved under stirring at room temperatureand the resulting mixture was left to stand for 6 hours. The solvent was evaporated under reduced pressure to obtain 0.30 g of 7-tert-butyl-3-(4-tert-butylphenyl)-2-methyl-l,2,3,4-tetrahydroisoquinoline saccharin salt.

reactant | 7-tert-butyl-3-(4-tert-butylphenyl)-2-methyl-l,2,3,4-tetrahydroisoquinoline | 0.20 g | C(C)(C)(C)C1=CC=C2CC(N(CC2=C1)C)C1=CC=C(C=C1)C(C)(C)C | C24H33N
reactant | saccharin | 0.10 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
solvent | methanol | 10 ml | CO | CH4O
product | 7-tert-butyl-3-(4-tert-butylphenyl)-2-methyl-l,2,3,4-tetrahydroisoquinoline saccharin salt | 0.30 g | S1(=O)(=O)NC(=O)C2=CC=CC=C12.C(C)(C)(C)C1=CC=C2CC(N(CC2=C1)C)C1=CC=C(C=C1)C(C)(C)C | InChI=1S/C24H33N.C7H5NO3S/c1-23(2,3)20-11-8-17(9-12-20)22-15-18-10-13-21(24(4,5)6)14-19(18)16-25(22)7;9-7-5-3-1-2-4-6(5)12(10,11)8-7/h8-14,22H,15-16H2,1-7H3;1-4H,(H,8,9)
